US08648200B2
Ethyl 4,4-difluoro-3-oxo-butanoate
Add sodium metal (7 kg, 300 mol) in portions to EtOH (53.6 kg) while maintaining the temperature below 60° C. Stir the reaction mixture until the sodium dissolves, then cool the mixture to 20-30° C. Add a solution of ethyl difluoroacetate (34 kg, 274 mol) in EtOAc (63 kg) to the sodium ethoxide at a temperature of 25-40° C. Heat the reaction mixture to 65° C. while stirring. After 2 h cool the mixture to room temperature. Add 10% HCl (30 kg HCl and 204 kg water) to the mixture until the pH of the mixture is 6-7. Extract the mixture with EtOAc (64 kg); separate; and extract the aqueous layer again with EtOAc (60 kg). Combine organic phases, and wash with brine (NaCl (48 kg) in water (136 kg)). Dry the organic phase with 4 A molecular sieve powder (15 kg), and concentrate to give the title compound as a brown-yellow oil (33 kg, 73% yield, 96% GC purity). 1H NMR (500 MHz, CDCl3,) δ 5.91 (t, J=54 Hz, 1H), 4.23 (m, 2H), 3.70 (s, 2H), 1.27 (m, 3H).

reactant | sodium | 300 mol, 7 kg | [Na] | Na
reactant | ethyl difluoroacetate | 274 mol, 34 kg | FC(C(=O)OCC)F | C4H6F2O2
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | HCl | 30 kg | Cl | ClH
reactant | EtOAc | 63 kg | CCOC(=O)C | C4H8O2
solvent | EtOH | 53.6 kg | CCO | C2H6O
product | Ethyl 4,4-difluoro-3-oxo-butanoate | 33 kg, 73% yield | FC(C(CC(=O)OCC)=O)F | C6H8F2O3
